.global vss
.global vss
.global vss
.subckt inverter_current_starved vcc vin vip von vop vss
mmp0 vop vin vcc vcc sky130_fd_pr__pfet_01v8 W=1.8000e-07 L=4.0000e-08 nfin=4 nf=2 m=4
mmn0 vop vin vss vss sky130_fd_pr__nfet_01v8 W=1.8000e-07 L=4.0000e-08 nfin=4 nf=2 m=4
mmp1 von vip vxx vcc sky130_fd_pr__pfet_01v8 W=1.8000e-07 L=4.0000e-08 nfin=4 nf=2 m=4
mmn1 von vip vss vss sky130_fd_pr__nfet_01v8 W=1.8000e-07 L=4.0000e-08 nfin=4 nf=2 m=4
mmp2 von vip vxx vcc sky130_fd_pr__pfet_01v8 W=1.8000e-07 L=4.0000e-08 nfin=4 nf=2 m=8
mmn2 von vip vss vss sky130_fd_pr__nfet_01v8 W=1.8000e-07 L=4.0000e-08 nfin=4 nf=2 m=8
mmp3 vxx clk vcc vcc sky130_fd_pr__pfet_01v8 W=1.8000e-07 L=4.0000e-08 nfin=4 nf=2 m=8
.ends inverter_current_starved
